US05334720
1-[(Methylamino)methyl]-5,5-diphenyl-2-piperidinone hydrochloride
1-(Chloromethyl)-5,5-diphenyl-2-piperidinone (27 g) was added portionwise during 20 min. to a solution of methylamine (120ml) in a mixture of toluene (100 ml) and THF (100 ml) at -30° C. with stirring and the mixture was allowed to warm to room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water and the organic solvent layer was washed with water and brine. The aqueous layers were re-extracted with ethyl acetate and then chloroform. All the organic extracts were combined and concentrated to give the crude title product as a solid which was converted to the hydrochloride salt by dissolution in isopropanol:methanol(5:1) and then adding portionwise a solution of hydrogen chloride in isopropanol until the medium was acidic. The solution was cooled overnight at 0°-5° C. and the hydrochloride salt of the title product was filtered of as a solid, mp 169°-171° C.

reactant | 1-(Chloromethyl)-5,5-diphenyl-2-piperidinone | 27 g | ClCN1C(CCC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H18ClNO
reactant | methylamine | 120ml | CN | CH5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-[(Methylamino)methyl]-5,5-diphenyl-2-piperidinone hydrochloride | Cl.CNCN1C(CCC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C19H22N2O.ClH/c1-20-15-21-14-19(13-12-18(21)22,16-8-4-2-5-9-16)17-10-6-3-7-11-17;/h2-11,20H,12-15H2,1H3;1H
